2120-05-29 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At 04/20/f2010 10:55
   - Bladder pressure 18
   - Ortho: VAC change Q2D - next VAC change Wed [**5-29**]; NWB RLE
   - peritoneal cultures prelim GNR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2120-5-28**] 03:36 AM
   Daptomycin - [**2120-5-28**] 09:00 AM
   Micafungin - [**2120-5-28**] 10:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2120-5-28**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2120-5-29**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-5-29**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36
C (96.8
   HR: 72 (68 - 93) bpm
   BP: 85/49(57) {78/44(42) - 113/60(71)} mmHg
   RR: 16 (13 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  1,365 mL
                                                                     88 mL
   PO:
   TF:
                                                                    140 mL
   IVF:
                                                                    605 mL
                                                                     88 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                      5 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,360 mL
                                                                     88 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, distended, bowel sounds present, slightly
   tender
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   85 K/uL
   8.2 g/dL
   88 mg/dL
   4.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   30 mg/dL
   99 mEq/L
   139 mEq/L
   26.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2120-5-27**]  05:30 PM
                             [**2120-5-28**]  01:31 AM
                             [**2120-5-29**]  04:25 AM
   WBC
   7.4
   5.8
   6.5
   Hct
   32.0
   27.0
   26.0
   Plt
   93
   75
   85
   Cr
   3.6
   3.9
   4.6
   TropT
   0.18
   0.17
   Glucose
   95
   152
   88
    PT / PTT / INR:19.2/40.6/1.8,
   Ca++:9.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Micro: peritoneal fluid growing gram negative rods
   Assessment and Plan
   62 y/o M NASH cirrhosis c/b varices/ascites, ESRD on HD, and chronic
   wound infection now transferred to ICU with hypotension after HD and
   missing midodrine doses
   .
   #Hypotension/Shock:  Patient with baseline low blood pressure (SBP
   80-90s). Now with significant positional change in blood pressure
   consistent with orthostatic hypotension.  This is in the setting of
   missing midodrine due to blocked dophoff.  Nadolol could also be
   contributing to orthostasis.  No clear infectious source although
   paracentesis with cell count profile c/w SBP.
   Possible that abominal distension is impairing venous return and
   causing hypotension.  Adrenal insufficiency considered although AM
   cortisol within normal limits.
   - Continue midodrine via dobhoff.
   - continue Levophed with goal SBP > 85
   - hold nadolol
   - continue micafungin and daptomycin for foot wound and meropenem for
   SBP
   - Gentle IVF's with attention to respiratory status.
   - Echo if remains hypotensive w/o clear explanation.
   .
   # Spontaneous bacterial peritonitis:  Most likely primary SBP given
   cell count profile.  He was started on meropenem and given albumin
   1.5mg/kg on [**5-27**].  Peritoneal fluid growing gram negative rods.
   - f/u speciation and sensitivity
   -  continue meropenem and narrow once sensitivity returns
   - f/u hepatology recs -
 no need for further albumin
   - monitor renal function
   .
   # RLE infection: pt had a chronic RLE cellulitis and osteomyelitis
   secondary to a traumatic R tibiotalar posterior dislocation and open
   trimalleolar fracture s/p external fixation [**2120-3-7**], s/p 5 debridements
   and revisions with non healing R ankle wound during the last admission
   and was discharged to LTAC with vac dressing and on daptomycin and
   micafungin to treat VRE and [**First Name5 (NamePattern1) 444**] [**Last Name (NamePattern1) **] until [**2120-5-26**]. He was seen
   in the ortho clinic on [**5-21**], and after the vac dressing was removed
   frank pus was seen. Patient is s/p I&D on [**5-24**]. In the OR, patient was
   noted to have good vessels, indicating good prognosis for eventual
   healing. External fixator removed and vac dressing placed.
   - f/u ortho surgery recs
   - appreciate ID recs
   - continue daptomycin and micafungin for now
   - per ID recs during the last admission, pt needs qweek checks of cbc,
   diff, lft, bun, cr, cpk, esr, crp while on abx
   - f/u cultures
   - VAC change Q2D - next VAC change Wed [**5-29**]
   - keep leg elevated
   .
   # Hypoxemia: Likely compressive atelectasis from abdominal distension.
   CXR ugly without focality.
   - Monitor volume status closely
   - sputum if able
   .
   # Neck Pain: Is not focal enough to be c/w epidural abscess although
   that is potential concern.  Would obtain CT c/t spine with contrast to
   evaluate for fracture/abscess or other abnormality.  Exam not c/w
   spinal infarct, and vascular dissection also inconsistent with current
   reproducible pain on exam.
   - pain control with morphine prn
   - warm compresses
   - lidocaine patch, Tylenol PRN, ultram PRN (will monitor BPs)
   # Dobhoff dysfunction/Dysphagia and poor PO intake: Dobhoff working
   now.  Patient failed s/s and video swallow on [**5-22**] due to muscle
   weakness and aspirations. Dobhoff was placed on [**5-22**].
   - NPO
   - continue TF via dobhoff
   - appreciate nutrition recs
   - avoid TPN given liver issues
   - tongue sore: ice chips, viscous lidocaine prn
   .
   # Cirrhosis: Stable, followed by Dr. [**First Name (STitle) **].  [**Month (only) 11**] need repeat
   paracentesis, but no belly pain currently.
   - Place foley in the AM and check bladder pressure.
   - monitor mental status
   - continue lactulose, rifaximin
   -  hold nadolol given hypotension.
   - titrate to [**4-11**] BM daily
   - continue PPI
   - monitor hct daily
   - LFT q2-3 days
   - F/U liver recs
   .
   # ESRD: due to hepatorenal syndrome, on HD with  TuThuSat schedule.
   - f/u renal recs
   - continue HD as tolerated by BP
   - avoid nephrotoxins
   - renally dose meds
   - trend electrolytes
   - strict I/Os, daily weights
   - continue calcium acetate
   - continue midodrine
   .
   # Type 2 Diabetes Mellitus with extreme insulin resistence:
   - continue insulin
   - diabetic diet
   - FS QID
   .
   # Obstructive Sleep Apnea:
   - continue CPAP
   .
   # Depression:
   - continue escitalopram and bupropion
   .
   # Thrombocytopenia: likely [**3-12**] cirrhosis
   - trend
   .
   # FEN: IVF, replete electrolytes, continue tube feeds
   # Prophylaxis: Subcutaneous heparin
   # Access: peripherals, PICC.
   # Communication: Patient and friend who is HCP [**Name (NI) **] home
   [**Telephone/Fax (1) 11363**], cell [**Telephone/Fax (1) 11362**].
   # Code:  Full (discussed with patient)
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-5-27**] 06:42 PM
   Dialysis Catheter - [**2120-5-27**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2120-05-29 11:54:00 Physician Attending Progress Note
Chief Complaint: HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo with cirrhosis, NASH. admitted with HOTN in setting of SBP and
   HD.
   24 Hour Events:
 BLOOD CULTURED - At [**2120-5-28**] 10:55 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2120-5-28**] 03:36 AM
   Daptomycin - [**2120-5-28**] 09:00 AM
   Micafungin - [**2120-5-28**] 10:00 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2120-5-28**] 04:30 PM
   Lansoprazole (Prevacid) - [**2120-5-29**] 08:00 AM
   Carafate (Sucralfate) - [**2120-5-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2120-5-29**] 08:00 AM
   Other medications:
   lidocaine
   lactulose
   reglan
   atrovent
   SSI/fixed
   Calcium acetate
   midodrine 10mg tid
   lexipro
   rifaxamin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-5-29**] 11:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36
C (96.8
   Tcurrent: 35.8
C (96.5
   HR: 75 (68 - 90) bpm
   BP: 100/50(62) {76/40(42) - 110/60(71)} mmHg
   RR: 17 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   Bladder pressure: 18 (18 - 18) mmHg
   Total In:
                                                                  1,365 mL
                                                                    173 mL
   PO:
   TF:
                                                                    140 mL
   IVF:
                                                                    605 mL
                                                                    173 mL
   Blood products:
                                                                    400 mL
   Total out:
                                                                      5 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,360 mL
                                                                    173 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, stool guaiac
   negative
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   85 K/uL
   88 mg/dL
   4.6 mg/dL
   30 mEq/L
   3.7 mEq/L
   30 mg/dL
   99 mEq/L
   139 mEq/L
   26.0 %
   6.5 K/uL
        [image002.jpg]
                             [**2120-5-27**]  05:30 PM
                             [**2120-5-28**]  01:31 AM
                             [**2120-5-29**]  04:25 AM
   WBC
   7.4
   5.8
   6.5
   Hct
   32.0
   27.0
   26.0
   Plt
   93
   75
   85
   Cr
   3.6
   3.9
   4.6
   TropT
   0.18
   0.17
   Glucose
   95
   152
   88
   Other labs: PT / PTT / INR:19.2/40.6/1.8, CK / CKMB /
   Troponin-T:20//0.17, ALT / AST:20/48, Alk Phos / T Bili:334/1.9,
   Differential-Neuts:82.8 %, Lymph:13.4 %, Mono:2.6 %, Eos:1.0 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:239 IU/L, Ca++:9.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   HOTN:  Likely due to sepsis from SBP.  Will try [**Last Name (un) **] stim to see if he
   may benefit from stress steroids.
   SBP:  continue meropenem and albumin protocol
   cirrhosis:  will ask liver if his hemodynamics would benefit from
   octreotide.
   continue lactulose and rifaxamin.
   Abd u/s today to r/o gall stones.
   LE wound infection:  to change wound vac tomorrow.
   neck pain:  will try low dose tylenol and ultram.
   ESRD on HD.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2120-5-27**] 06:42 PM
   Dialysis Catheter - [**2120-5-27**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2120-05-30 11:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo man with cirrhosis, ESRD, admitted wtih HOTN and SBP.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2120-5-28**] 09:00 AM
   Meropenem - [**2120-5-30**] 01:34 AM
   Micafungin - [**2120-5-30**] 11:40 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2120-5-30**] 09:00 AM
   Carafate (Sucralfate) - [**2120-5-30**] 09:01 AM
   Other medications:
   lidocaine patch
   lactulose
   reglan
   atrovent
   SSI
   folate
   micafungin
   Calcium acetate
   carafate
   midodrine
   daptom
   rifaxamin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Neurologic: No(t) Headache
   Flowsheet Data as of  [**2120-5-30**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 99 (77 - 99) bpm
   BP: 122/62(76) {79/33(48) - 129/77(86)} mmHg
   RR: 25 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                    535 mL
                                                                  1,118 mL
   PO:
             100 mL
   TF:
                                                                    156 mL
                                                                    501 mL
   IVF:
                                                                    378 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    535 mL
                                                                  1,118 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   86 K/uL
   196 mg/dL
   3.3 mg/dL
   30 mEq/L
   3.8 mEq/L
   21 mg/dL
   99 mEq/L
   139 mEq/L
   27.2 %
   7.4 K/uL
        [image002.jpg]
                             [**2120-5-27**]  05:30 PM
                             [**2120-5-28**]  01:31 AM
                             [**2120-5-29**]  04:25 AM
                             [**2120-5-30**]  04:13 AM
   WBC
   7.4
   5.8
   6.5
   7.4
   Hct
   32.0
   27.0
   26.0
   27.2
   Plt
   93
   75
   85
   86
   Cr
   3.6
   3.9
   4.6
   3.3
   TropT
   0.18
   0.17
   Glucose
   95
   152
   88
   196
   Other labs: PT / PTT / INR:19.3/38.6/1.8, CK / CKMB /
   Troponin-T:14//0.17, ALT / AST:15/37, Alk Phos / T Bili:265/1.7,
   Differential-Neuts:79.5 %, Lymph:15.0 %, Mono:4.2 %, Eos:1.2 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.3 g/dL, LDH:239 IU/L, Ca++:9.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Fluid analysis / Other labs: 23-36.7 on [**Last Name (un) **] stim
   Microbiology: stool studies negative
   SBP with ESBL E.coli
   Assessment and Plan
   HOTN:  Adrenal insufficiency unlikely given normal stim test.  BP may
   be improved today.
   [**Month (only) 11**] be improved on octreotide.   Can check TTE today.
   Spontaneous bacterial peritonitis:  continue meropenem for resistent E.
   coli
   cirrhosis:  continue lactulose
   ESRD: HD today
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2120-5-30**] 10:09 AM 50 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2120-5-27**] 06:42 PM
   Dialysis Catheter - [**2120-5-27**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   ------ Protected Section ------
   Erratum.  Patient still intermittently requiring pressors. So Would
   keep in the ICU for today.
   Critically Ill.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1065**], MD
   on:[**2120-5-30**] 13:35 ------